US05486527
3-Diphenylmethylenepiperidine Hydrochloride
A mixture of 3-(diphenylhydroxymethyl)piperidine (801 mg, 3.0 mmol) and 2M hydrochloric acid (12 ml) was stirred at 100° C. for 2 hours and evaporated. The residue was triturated with toluene and recrystallised from methanol to give the title compound (730 mg) as a colourless solid, m.p. 236°-237° C.

reactant | 3-(diphenylhydroxymethyl)piperidine | 3.0 mmol, 801 mg | C1(=CC=CC=C1)C(C1CNCCC1)(O)C1=CC=CC=C1 | C18H21NO
reactant | hydrochloric acid | 2M, 12 ml | Cl | ClH
product | 3-Diphenylmethylenepiperidine Hydrochloride | 730 mg | Cl.C1(=CC=CC=C1)C(=C1CNCCC1)C1=CC=CC=C1 | InChI=1S/C18H19N.ClH/c1-3-8-15(9-4-1)18(16-10-5-2-6-11-16)17-12-7-13-19-14-17;/h1-6,8-11,19H,7,12-14H2;1H
